US06518257B1
(iii) Production of 1-(4′-fluoro-6-methoxy[1,1′-biphenyl]-3-yl)-2-methyl-1-propanone
To a solution of 1-(4′-fluoro-6-methoxy[1,1′-biphenyl]-3-yl)-2-methyl-1-propanol (3.82 g) in dichloromethane (60 ml) was added manganese(IV) dioxide (12.1 g), and the mixture was stirred at room temperature for 17 h. Manganese(IV) dioxide (17.7 g) was added and the mixture was stirred at room temperature for 1.5 h. The mixture was heated under reflux for 22 h and filtered through Celite. The solvent was evaporated under reduced pressure to give the title compound (3.73 g) as a yellow oil.

reactant | 1-(4′-fluoro-6-methoxy[1,1′-biphenyl]-3-yl)-2-methyl-1-propanol | 3.82 g | FC1=CC=C(C=C1)C1=CC(=CC=C1OC)C(C(C)C)O | C17H19FO2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | manganese(IV) dioxide | 12.1 g | [O-2].[O-2].[Mn+4]
catalyst | Manganese(IV) dioxide | 17.7 g | [O-2].[O-2].[Mn+4]
product | 1-(4′-fluoro-6-methoxy[1,1′-biphenyl]-3-yl)-2-methyl-1-propanone | 3.73 g | FC1=CC=C(C=C1)C1=CC(=CC=C1OC)C(C(C)C)=O | C17H17FO2
